US06329397B1
A mixture of 5-(4-benzyloxy-benzenesulfonyl)-2-oxa-5-aza-bicyclo[2.2.2]octan-3-one (1.0 g, 2.7 mmol), ethyl acetate-methanol (1:1, 100 mL) and 10% Pd on charcoal (0.22 g) was shaken under 50 psi of hydrogen for 1.5 h. Filtration through a pad of Celite and concentration of the filtrate in vacuo afforded 0.80 g of 5-(4-hydroxy-benzenesulfonyl)-2-oxa-5-aza-bicyclo[2.2.2]octan-3-one as a colorless solid.

reactant | 5-(4-benzyloxy-benzenesulfonyl)-2-oxa-5-aza-bicyclo[2.2.2]octan-3-one | 2.7 mmol, 1.0 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)S(=O)(=O)N1C2C(OC(C1)CC2)=O | C19H19NO5S
reactant | hydrogen | [H][H] | H2
catalyst | Pd on charcoal | 0.22 g | [Pd] | Pd
solvent | ethyl acetate methanol | 100 mL | C(C)(=O)OCC.CO
product | 5-(4-hydroxy-benzenesulfonyl)-2-oxa-5-aza-bicyclo[2.2.2]octan-3-one | 0.80 g | OC1=CC=C(C=C1)S(=O)(=O)N1C2C(OC(C1)CC2)=O | C12H13NO5S
